US05232948
To a solution of 2.98 g (8.82 mmoles) of 1,3-di-(carbomethoxymethyl)-5-cinnamyloxybenzene in 50 ml EtOH is added 26 ml of 1N NaOH. After 12 hours, the reaction mixture is concentrated down in vacuo, taken up in H2O and acidified to pH 4 with 1N HCl. The solid precipitate is collected and recrystallized from MeOH to afford 1,3-di-(carboxymethyl)-5-cinnamyloxybenzene which is used directly in the next step.

reactant | 1,3-di-(carbomethoxymethyl)-5-cinnamyloxybenzene | 8.82 mmoles, 2.98 g | C(=O)(OC)CC1=CC(=CC(=C1)OCC=CC1=CC=CC=C1)CC(=O)OC | C21H22O5
reactant | NaOH | 1N, 26 ml | [OH-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1,3-di-(carboxymethyl)-5-cinnamyloxybenzene | C(=O)(O)CC1=CC(=CC(=C1)OCC=CC1=CC=CC=C1)CC(=O)O | C19H18O5
